US08648066B2
6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-N-ethyl-1H-benzimidazol-2-amine.
Prepared according to the method of example 15 by using ethyl isothiocyanate in step 1 and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 3. 1H NMR (400 MHz, d6-DMSO): 8.37 (s, 1H), 7.56 (d, 1), 7.43 (dd, 1H), 7.38 (s, 1H), 7.20 (s, 2H), 7.00 (d, 1H), 4.62 (s, 2H), 4.29 (m, 2H), 3.83 (m, 2H), 3.35 (q, 2H), 2.70 (t, 2H), 2.47 (s, 2H), 1.60 (t, 2H), 1.19 (t, 3H), 0.86 (s, 6H); MS (EI) for C28H32N6O: 469 (MH+).

reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-N-ethyl-1H-benzimidazol-2-amine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=CC1=C(NC(=N1)NCC)C2)C | C28H32N6O
